US07067517B2
4-(2-Oxo-pyrrolidin-1-yl)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title compound was prepared from 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate and 1-piperidin-4-yl-pyrrolidine-2-one, hydrochloride, praeparative HPLC (Method C) (55%, semi-crystaline oil). HPLC-MS m/z=450.1 (M+1), Rt: 3.81 min.

reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | 1-piperidin-4-yl-pyrrolidine-2-one, hydrochloride | Cl.N1CCC(CC1)N1C(CCC1)=O
product | 4-(2-Oxo-pyrrolidin-1-yl)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)N1C(CCC1)=O)(F)F | C22H22F3N3O4
